US05236928
1-((2'-((tert-butylamino)sulfonyl)(1,1'-biphenyl)-4yl)methyl)-2-butyl-4-chloro-imidazole-5-carboxylic acid, methyl ester (75.0 mg, 0.145 mmol) was stirred in trifluoroacetic acid (1.0 ml) containing anisole (20 μl) under nitrogen at room temperature for 24 hours. The trifluoroacetic acid was removed in vacuo and the residue chromatographed (silica gel, 35% ethyl acetate-hexane) to afford 1-((2'-(aminosulfonyl)(1,1'-biphenyl)-4-yl)methyl)-2-butyl-4-chloro-imidazole-5-carboxylic acid, methyl ester (67.5 mg, 100%) as a white solid; 1H NMR (300 MHz, CD3OD/CDCl3) δ8.08 (d, J=7.7 Hz, 1H), 7.54 (t, J=7.7 Hz, 1H), 7.46 (t, J=7.7 Hz, 1H), 7.40 (d, J=8.1 Hz, 2H), 7.26 (d, J=7.7 Hz, 1H), 7.04 (d, J=8.1 Hz, 2H), 5.57 (s, 2H), 3.80 (s, 3H), 2.64 (t, J=7.4 Hz, 2H), 1.62 (quin, J=7.4 Hz, 2H), 1.31 (sext, J=7.4 Hz, 2H), 0.89 (t, J=7.4 Hz, 3H).

reactant | 1-((2'-((tert-butylamino)sulfonyl)(1,1'-biphenyl)-4yl)methyl)-2-butyl-4-chloro-imidazole-5-carboxylic acid, methyl ester | 0.145 mmol, 75.0 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OC)Cl)CCCC | C26H32ClN3O4S
reactant | anisole | 20 μl | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 1.0 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-((2'-(aminosulfonyl)(1,1'-biphenyl)-4-yl)methyl)-2-butyl-4-chloro-imidazole-5-carboxylic acid, methyl ester | 67.5 mg, 100% | NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OC)Cl)CCCC | C22H24ClN3O4S
